US07247734B2
This compounds was synthesised in the same manner as described above. 4-[3-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-butyronitrile (0.3 g, 0.84 mmol), Hydrazine hydrate (6 ml). The quenched reaction was extracted into ethyl acetate, washed (water), dried (MgSO4), and the solvent removed under vacuum to give a clear oil which was purified by column chromatograpy to give 4-{3-[3-(5-chloro-2,4-dihydroxy-phenyl)-1H-pyrazol-4-yl]-phenoxy}-butyronitrile as a white soild Rf 0.6 ethyl acetate/hexane (70/30).

reactant | 4-[3-(6-Chloro-7-hydroxy-4-oxo-4H-chromen-3-yl)-phenoxy]-butyronitrile | 0.84 mmol, 0.3 g | ClC=1C=C2C(C(=COC2=CC1O)C=1C=C(OCCCC#N)C=CC1)=O | C19H14ClNO4
reactant | Hydrazine hydrate | 6 ml | O.NN
product | 4-{3-[3-(5-chloro-2,4-dihydroxy-phenyl)-1H-pyrazol-4-yl]-phenoxy}-butyronitrile | ClC=1C(=CC(=C(C1)C1=NNC=C1C=1C=C(OCCCC#N)C=CC1)O)O | C19H16ClN3O3
